US04035395
A mixture of 36 g (1.0 mol) of distilled n-butyraldehyde, 13.5 g (0.05 mol) of Catalyst 1, 400 ml of dimethylformamide and 20.2 g (0.2 mol) of triethylamine is initially introduced, under nitrogen, into the apparatus described in Example 1. The mixture is stirred for 2 hours at 80° C and a solution of 26.5 g (0.5 mol) of distilled acrylonitrile is then added dropwise over the course of 6 hours. The whole is then stirred for a further 16 hours at the same temperature. For working up, the solvent is distilled off in vacuo, the oil which remains is taken up in chloroform and the solution is washed with water, dilute sodium bisulphite solution and again with water. The organic layer is separated off and dried with magnesium sulphate. It is filtered, solvent is distilled off and the residue is distilled in a water-pump vacuum. 4-Oxo-heptane-1-carbonitrile is obtained.

reactant | n-butyraldehyde | 1.0 mol, 36 g | C(CCC)=O | C4H8O
reactant | triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | acrylonitrile | 0.5 mol, 26.5 g | C(C=C)#N | C3H3N
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 4-Oxo-heptane-1-carbonitrile | O=C(CCCC#N)CCC | C8H13NO
